US05763437
To a solution of l-hydroxymethyl-5,6,7,8-tetrahydroisoquinoline hydrochloride (0.42 g) in chloroform (10 ml) was added dropwise a solution of thionyl chloride (1.1 ml) in chloroform (5 ml) at room temperature and heated for 2 hours at ca. 50° C. The reaction mixture was concentrated in vacuo and the residue was taken up with ethyl acetate. The organic layer was washed with saturated sodium carbonate aqueous solution, dried over sodium sulfate, filtered and concentrated in vacuo to give 1-chloromethyl-5,6,7,8-tetrahydroisoquinoline (0.22 g) as a brown oil.

reactant | l-hydroxymethyl-5,6,7,8-tetrahydroisoquinoline hydrochloride | 0.42 g | Cl.OCC1=NC=CC=2CCCCC12
reactant | thionyl chloride | 1.1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-chloromethyl-5,6,7,8-tetrahydroisoquinoline | 0.22 g | ClCC1=NC=CC=2CCCCC12 | C10H12ClN
